US04666637
The operation was carried out in the same manner as in Example 1 except that the reaction product of chlorosulfonic acid and chlorobenzene was dropwise added to 788 g of 60% sulfuric acid. After the liquid phase separation, about 1100 g of sulfuric acid having a concentration of 73% was obtained from the lower layer. From the upper layer, 286 g of chlorobenzene sulfochloride having a purity of 92% was obtained. The yield based on the feed chlorobenzene was 83%.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | sulfuric acid | 788 g | S(O)(O)(=O)=O | H2O4S
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | chlorobenzene sulfochloride | 286 g | S(=O)(=O)(O)Cl.ClC1=CC=CC=C1 | InChI=1S/C6H5Cl.ClHO3S/c7-6-4-2-1-3-5-6;1-5(2,3)4/h1-5H;(H,2,3,4)
